US04207419
1-Bromo-4-Methyl-4-Phenyl-trans-1-Penten-3-One
A solution of 14 g. of 1-chloro-4-methyl-4- phenyl-1-trans-1-penten-3-one in 90 ml. of dimethoxyethane was treated with 24 g. of lithium bromide and refluxed for 24 hours. The mixture was diluted at 0° C. with ether, washed with brine, dried with MgSO4 and evaporated to dryness. The residue was redissolved in dimethoxyethane, treated with lithium bromide and refluxed for an additional 24 hours. After the exact same process was repeated thrice and the crude product was chromatographed on silica gel. Elution with 5% ethyl acetate in hexane afforded 8.9 g. of the title produce as a yellow oil, λmaxfilm 3.4, 5.88, 6.32, 6.66, 6.78, 6.88, 7.70, 9.25, 9.48, 9.98, 10.64, 12.80, 13.10 and 14.25 μ.

reactant | 1-chloro-4-methyl-4- phenyl-1-trans-1-penten-3-one | Cl\C=C\C(C(C)(C1=CC=CC=C1)C)=O | C12H13ClO
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | lithium bromide | [Br-].[Li+]
solvent | ether | CCOCC | C4H10O
product | 1-Bromo-4-Methyl-4-Phenyl-trans-1-Penten-3-One | Br\C=C\C(C(C)(C1=CC=CC=C1)C)=O | C12H13BrO
